US05565440
1.5 ml of a solution of 1N sodium hydroxide in methanol are added to a solution of 20.2 g of 2-methoxybenzenethiol in 20 ml of methanol and 20 ml of diethyl ether followed by cooling to 0° C. 13.9 ml of methylacrylate was then dropwise added to this solution. After completion of dropping, the reaction mixture was warmed to room temperature and stirred overnight. After concentrating the reaction mixture by a rotary evaporator, 8.7 g of sodium hydroxide, 100 ml of water and 35 ml of methanol was added followed by stirring vigorously overnight. The reaction mixture was acidified with concentrated hydrochloric acid while cooling and the resulting solution was extracted with chloroform. The chloroform layer was dried with magnesium sulfate, the solvent was distilled off and the resulting crystal was recrystallized from chloroform-hexane to obtain 25.4 g of the target 2-(2-methoxyphenylthio) ethanecarboxylic acid (yield: 83%, m.p.: 91°-91.5° C.).

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 2-methoxybenzenethiol | 20.2 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | methylacrylate | 13.9 ml | COC(C=C)=O | C4H6O2
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-(2-methoxyphenylthio) ethanecarboxylic acid | yield: 83% | COC1=C(C=CC=C1)SCCC(=O)O | C10H12O3S
